US07384934B2
(S)-10-[3-(2-Ethoxyethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-1,4,9-triazabenzo[f]azulene
In a manner similar to that described in Example 300, combine 2-methyl-4H-3-thia-1,4,9-triazabenzo[f]azulene-10-ylamine (0.534 g, 2.01 mmol) and (S)-2-(2-ethoxyethyl)piperazine (0.635 g, 4.01 mmol) to obtain the title compound: Exact Mass, Calc: 372.1858; Found: 372.1867.

reactant | 2-methyl-4H-3-thia-1,4,9-triazabenzo[f]azulene-10-ylamine | 2.01 mmol, 0.534 g | CC1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | C11H10N4S
reactant | (S)-2-(2-ethoxyethyl)piperazine | 4.01 mmol, 0.635 g | C(C)OCC[C@@H]1NCCNC1 | C8H18N2O
product | (S)-10-[3-(2-Ethoxyethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-1,4,9-triazabenzo[f]azulene | C(C)OCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C)C=CC=C2 | C19H25N5OS
